US05212163
Dibenzyl (1-hydroxypentyl)phosphonate (D14)
The general method of F. Texier-Boullet and A. Foucaud [Synthesis, 1982, 916] was employed. A mixture of dibenzyl phosphite (7.73 ml, 0.035 mole) and valeraldehyde (11.15 ml, 0.105 mole) was stirred at room temperature and basic alumina (35 g) added in one portion. After standing overnight at room temperature chloroform was added and the alumina collected and washed with chloroform. The filtrate was evaporated to dryness and the resulting oil chromatographed on silica gel with gradient elution (50% pentane/ethyl acetate-ethyl acetate) to give the title compound as a colourless oil (9.17 g, 76%).

reactant | dibenzyl phosphite | 0.035 mole, 7.73 ml | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | valeraldehyde | 0.105 mole, 11.15 ml | C(CCCC)=O | C5H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Dibenzyl (1-hydroxypentyl)phosphonate | 9.17 g, 76% | OC(CCCC)P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C19H25O4P
